US07816371B2
b. (R)-N-(6-Chloro-2-(1-hydroxypropan-2-yl)-1-oxo-1,2-dihydroisoquinolin-5-yl)-2-(3-fluoro-4-(trifluoromethyl)phenyl)acetamide
A round bottom flask was charged with (R)-2-(6-chloro-5-(2-(3-fluoro-4-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)propyl acetate (1.200 g, 0.002406 mol), potassium carbonate (0.997 g, 0.00722 mol) and methanol (20 mL, 0.5 mol) and 2 drops of water. The reaction was stirred at room temperature for 1 hour in which time the reaction was complete. The reaction mixture was filtered over Na2SO4 and washed repeatedly with methanol. The solvent was removed under reduced pressure and the residue purified by flash chromatography to obtain the product as a white solid. MS m/z=457.3 (M+H). 1H NMR (400 MHz, DMSO-d6): δ 10.20 (s, 1H), 8.17 (d, J=8.54 Hz, 1H), 7.79 (t, J=8.21 Hz, 1H), 7.60 (d, J=8.87 Hz, 1H), 7.56-7.51 (m, 2H), 7.45 (d, J=8.54 Hz, 1H), 6.44 (d, J=7.90 Hz, 1H), 5.03-4.99 (m, 1H), 4.94 (t, J=5.21 Hz, 1H), 3.94 (s, 2H), 3.68-3.56 (m, 2H), 1.28 (d, J=7.51 Hz, 3H).

reactant | (R)-2-(6-chloro-5-(2-(3-fluoro-4-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)propyl acetate | 0.002406 mol, 1.200 g | C(C)(=O)OC[C@@H](C)N1C(C2=CC=C(C(=C2C=C1)NC(CC1=CC(=C(C=C1)C(F)(F)F)F)=O)Cl)=O | C23H19ClF4N2O4
reactant | potassium carbonate | 0.00722 mol, 0.997 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 0.5 mol, 20 mL | CO | CH4O
catalyst | water | 2 drops | O | H2O
product | (R)-N-(6-Chloro-2-(1-hydroxypropan-2-yl)-1-oxo-1,2-dihydroisoquinolin-5-yl)-2-(3-fluoro-4-(trifluoromethyl)phenyl)acetamide | ClC=1C(=C2C=CN(C(C2=CC1)=O)[C@@H](CO)C)NC(CC1=CC(=C(C=C1)C(F)(F)F)F)=O | C21H17ClF4N2O3
